US09376422B2
Compound 392: N-[(4,6-Dimethyl-2-oxo-1,2-dihydropyridin-3-yl)methyl]-3-[ethyl(1-methylpiperidin-4-yl)amino]-2-methyl-5-(trifluoromethyl)benzamide
To a stirred solution of 3-[ethyl(1-methylpiperidin-4-yl)amino]-2-methyl-5-(trifluoromethyl)benzoic acid (crude material, 580 mg, 1.68 mmol) and 3-(aminomethyl)-4,6-dimethyl-1,2-dihydropyridin-2-one HCl salt (477 mg, 2.53 mmol) in DMSO (6 mL) was added PyBOP (1.57 g, 3.02 mmol) and hunig base (650 mg, 5.04 mmol). The reaction mixture was stirred at 23° C. for 20 hours. The reaction mixture was quenched with water and resulting precipitate was collected. The solid was purified by silica gel column chromatography (NH—SiO2 ethylacetate/MeOH=25/1) to give the titled compound as a white amorphous (386 mg, 48% yield). 1HNMR (400 MHz, CDCl3) δppm; 7.31 (s, 1H), 7.27 (s, 1H), 7.18 (t, J=5.7 Hz, 1H), 5.95 (s, 1H), 4.55 (d, J=5.9 Hz, 2H), 3.17 (dq, J=6.4, 3.3 Hz, 2H), 3.08 (q, J=7.0 Hz, 2H), 2.81 (m, 2H), 2.70 (m, 1H), 2.40 (s, 3H), 2.33 (s, 3H), 2.23 (s, 3H), 2.21 (s, 3H), 1.78-1.93 (m, 2H), 1.70 (m, 2H), 0.84 (t, J=7.0 Hz, 3H); MS (ES) [M+H] 479.2, [M+Na] 501.3; HPLC 96.8% purity.

reactant | 3-[ethyl(1-methylpiperidin-4-yl)amino]-2-methyl-5-(trifluoromethyl)benzoic acid | 1.68 mmol, 580 mg | C(C)N(C=1C(=C(C(=O)O)C=C(C1)C(F)(F)F)C)C1CCN(CC1)C | C17H23F3N2O2
reactant | 3-(aminomethyl)-4,6-dimethyl-1,2-dihydropyridin-2-one HCl salt | 2.53 mmol, 477 mg | Cl.NCC=1C(NC(=CC1C)C)=O
reactant | PyBOP | 3.02 mmol, 1.57 g | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
reactant | hunig base | 5.04 mmol, 650 mg | CCN(C(C)C)C(C)C | C8H19N
solvent | DMSO | 6 mL | CS(=O)C | C2H6OS
product | N-[(4,6-Dimethyl-2-oxo-1,2-dihydropyridin-3-yl)methyl]-3-[ethyl(1-methylpiperidin-4-yl)amino]-2-methyl-5-(trifluoromethyl)benzamide | 48% yield | CC1=C(C(NC(=C1)C)=O)CNC(C1=C(C(=CC(=C1)C(F)(F)F)N(C1CCN(CC1)C)CC)C)=O | C25H33F3N4O2
